US04031226
A mixture of 5 parts of N-[1-(phenylmethyl)-4-piperidinyl]-1,2-benzenediamine, 2.35 parts of methyl (iminomethoxymethyl)carbamate, 5 parts of acetic acid and 75 parts of trichloromethane is stirred and refluxed for 48 hours. The reaction mixture is evaporated and the residue is taken up in water. The solution is neutralized with ammonium hydroxide solution. The precipitated product is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1.75 parts of methyl {1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-ylidene}carbamate; mp. 169.7° C.

reactant | N-[1-(phenylmethyl)-4-piperidinyl]-1,2-benzenediamine | C1(=CC=CC=C1)CN1CCC(CC1)NC=1C(=CC=CC1)N | C18H23N3
reactant | methyl (iminomethoxymethyl)carbamate | N=COCNC(OC)=O | C4H8N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | methyl {1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-ylidene}carbamate | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=NC(OC)=O | C21H24N4O2
